US09334286B2
Preparation 70: 2-Methyl-1-(4-(2-(methylthio)pyrido[2,3-d]pyrimidin-7-yl)-1H-pyrazol-1-yl)propan-2-ol
A suspension of 7-chloro-2-(methylthio)pyrido[2,3-d]pyrimidine (Preparation 57, 50.6 mg, 0.239 mmol), 2-methyl-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propan-2-ol (Preparation 124, 63.6 mg, 0.239 mmol), Pd(dppf)C2•DCM (20.2 mg, 0.024 mmol), Na2CO3 (2M, 0.24 mL, 0.48 mmol) in DME (4 mL) was stirred at 140° C. under microwave irradiation for 60 minutes. The reaction mixture was diluted with EtOAc and dried with Na2SO4, filtered and concentrated in vacuo. The residue was purified using Biotage silica gel column chromatography eluting with 25-80% EtOAc/cyclohexane to give the title compound as orange semi-solid (21 mg, 28%).

reactant | 7-chloro-2-(methylthio)pyrido[2,3-d]pyrimidine | 0.239 mmol, 50.6 mg | ClC=1C=CC2=C(N=C(N=C2)SC)N1 | C8H6ClN3S
reactant | 2-methyl-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propan-2-ol | 0.239 mmol, 63.6 mg | CC(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)(C)O | C13H23BN2O3
reactant | Na2CO3 | 0.48 mmol, 2M, 0.24 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 4 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Methyl-1-(4-(2-(methylthio)pyrido[2,3-d]pyrimidin-7-yl)-1H-pyrazol-1-yl)propan-2-ol | 21 mg, 28% | CC(CN1N=CC(=C1)C=1C=CC2=C(N=C(N=C2)SC)N1)(C)O | C15H17N5OS
